US07897766B2
4-Phenylthiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 4-phenylthiophene-2-carboxylic acid (Oakwood) according to methods A and C; yield 54 mg, 0.14 mmol (44%): 1H NMR (300 MHz, DMSO-d6) δ 1.86-1.98 (m, 2H), 2.06 (d, J=13 Hz, 3H), 2.24 (s, 2H), 3.35 (d, J=9 Hz, 4H), 3.84 (d, J=13 Hz, 2H), 4.10-4.20 (m, 1H), 7.26-7.36 (m, 1H), 7.43 (t, J=7 Hz, 2H), 7.69-7.78 (m, 2H), 8.08 (d, J=1 Hz, 1H), 8.45 (d, J=6 Hz, 1H), 8.54 (d, J=1 Hz, 1H); MS (DCI/NH3) m/z 339 (M+H)+; Anal. C20H22N2OS.HCl 0.07H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 4-phenylthiophene-2-carboxylic acid | C1(=CC=CC=C1)C=1C=C(SC1)C(=O)O | C11H8O2S
reactant | NH3 | N | H3N
product | 4-Phenylthiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2SC=C(C2)C2=CC=CC=C2 | InChI=1S/C20H22N2OS.ClH/c23-20(18-8-17(12-24-18)14-4-2-1-3-5-14)21-19-15-6-13-7-16(19)11-22(9-13)10-15;/h1-5,8,12-13,15-16,19H,6-7,9-11H2,(H,21,23);1H/t13?,15?,16?,19-;
